US04933458
In 50 ml of chloroform was dissolved 1.47 g of 2-(2-dimethylaminobenzylthio)quinoxaline. To the chilled solution kept at -10° C. was portionwise added 1.54 g of m-chloroperbenzoic acid (purity: 80%). To the reaction liquid were washed successively with saturated aqueous NaHCO3 solution, water and saturated aqueous sodium chloride solution, and dried over sodium sulfate. The sodium sulfate was then removed by filtration, and the solvent was evaporated under reduced pressure from the filtrate. The residue was purified by silica gel column chromatography (hexane/acetone) to give 330 mg of 2-(2-dimethylaminobenzylsulfinyl)quinoxaline as a yellow powder, m.p. 114°-115° C.

reactant | 2-(2-dimethylaminobenzylthio)quinoxaline | 1.47 g | CN(C1=C(CSC2=NC3=CC=CC=C3N=C2)C=CC=C1)C | C17H17N3S
reactant | m-chloroperbenzoic acid | 1.54 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-(2-dimethylaminobenzylsulfinyl)quinoxaline | 330 mg | CN(C1=C(CS(=O)C2=NC3=CC=CC=C3N=C2)C=CC=C1)C | C17H17N3OS
